US08198269B2
(1) Synthesis of (R)-1-(tert-butyldimethylsilanyloxy)-3-but en-2-ol
n-Butyllithium (58.2 mL, 2.64 M solution in hexane) was added dropwise to a suspension of trimethylsulfonium iodide (32.4 g) in tetrahydrofuran (400 mL) in a nitrogen atmosphere at −20° C. The reaction solution was stirred at the same temperature for 30 minutes. tert-Butyldimethylsilyl (R)-(−)-glycidyl ether (10 g) was added dropwise to the reaction solution at the same temperature. The reaction solution was stirred for three hours with gradual heating to room temperature. Aqueous ammonium chloride and ethyl acetate were added to the reaction solution, and the organic layer was separated. The organic layer was washed with saturated aqueous sodium chloride twice. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (9.6 g).

reactant | n-Butyllithium | 2.64 M, 58.2 mL | C(CCC)[Li]
reactant | trimethylsulfonium iodide | 32.4 g | [I-].C[S+](C)C
reactant | tert-Butyldimethylsilyl (R)-(−)-glycidyl ether | 10 g | C([C@H]1CO1)O[Si](C)(C)C(C)(C)C | C9H20O2Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-1-(tert-butyldimethylsilanyloxy)-3-but en-2-ol | 9.6 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](C=C)O | C10H22O2Si
